US04308263
46 parts by weight of Na2 -salt of phosphonoformic acid methyl ester are dissolved in 90 parts by volume of water and 46 parts by weight of methyl hydrazine are added at 25° C. The mixture is stirred at 80° C. for 7 hours and allowed to cool. The residue is removed by suction filtration and the filtrate is evaporated in vacuo. The residue after evaporation is digested with ethyl alcohol and the such obtained crystals are again dissolved in a mixture of 70 parts by volume methanol and 200 parts by volume ethyl alcohol and thereafter precipitated. 90 parts by weight of Na2 -salt of phosphonoformic acid methyl hydrazide are obtained (yield 38%).

reactant | phosphonoformic acid methyl ester | COC(=O)P(=O)(O)O | C2H5O5P
reactant | methyl hydrazine | CNN | CH6N2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | ethyl alcohol | C(C)O | C2H6O
product | phosphonoformic acid methyl hydrazide | yield 38% | CN(N)C(=O)P(=O)(O)O | C2H7N2O4P
